US07163936B2
To a suspension of potassium tert-butoxide (3.14 g, 28 mmol) in THF (130 ml) heated at 60° C. was added tert-butyl (3S)-3-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino]-4-(methoxymethoxy)butanoate (5.24 g, 14 mmol) in THF (50 ml) and the mixture was stirred for 5 minutes. After cooled to 0° C. the reaction mixture was poured into diluted hydrochloric acid (after confirming that pH was about 3), a saturated aqueous sodium chloride solution was added thereto and the mixture was extracted three times with ethyl acetate. The organic layer was washed with water, then a saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed in vacuo. To a solution of the residue (4.17 g) in methanol (100 ml) were added acetic acid (1.45 ml, 25 mmol) and sodium cyanoborohydride (1.06 g, 17 mmol) and the mixture was stirred at room temperature for 30 minutes. The solvent was removed in vacuo. The residue was purified with silica gel (60 g) chromatography (hexane/ethyl acetate=2/1→1/1) to give 1-allyl 3-tert-butyl (2S)-4-hydroxy-2-[(methoxymethoxy)methyl]-1,3-pyrrolidinedicarboxylate (1.47 g, 30%).

reactant | potassium tert-butoxide | 28 mmol, 3.14 g | CC(C)([O-])C.[K+]
reactant | tert-butyl (3S)-3-[[(allyloxy)carbonyl](2-methoxy-2-oxoethyl)amino]-4-(methoxymethoxy)butanoate | 14 mmol, 5.24 g | C(C=C)OC(=O)N([C@@H](CC(=O)OC(C)(C)C)COCOC)CC(=O)OC | C17H29NO8
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
reactant | acetic acid | 25 mmol, 1.45 ml | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 17 mmol, 1.06 g | C(#N)[BH3-].[Na+]
solvent | THF | 130 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
product | 1-allyl 3-tert-butyl (2S)-4-hydroxy-2-[(methoxymethoxy)methyl]-1,3-pyrrolidinedicarboxylate | 1.47 g, 30% | OC1C([C@H](N(C1)C(=O)OCC=C)COCOC)C(=O)OC(C)(C)C | C16H27NO7
